US04517130
Following the procedure of Example 3, 2-(4-trifluoromethylphenylamino)-3-methylbutyronitrile was treated, at room temperature, with ethanol/HCl and then, at slightly lower temperature, with water to give ethyl 2-(4-trifluoromethylphenylamino)-3-methylbutanoate.

reactant | 2-(4-trifluoromethylphenylamino)-3-methylbutyronitrile | FC(C1=CC=C(C=C1)NC(C#N)C(C)C)(F)F | C12H13F3N2
reactant | ethanol HCl | C(C)O.Cl
reactant | water | O | H2O
product | ethyl 2-(4-trifluoromethylphenylamino)-3-methylbutanoate | FC(C1=CC=C(C=C1)NC(C(=O)OCC)C(C)C)(F)F | C14H18F3NO2
